US04021562
A mixture of 4-chloro-2,6-bis-(ethoxycarbonylamino)-pyridine 1-oxide (10.0 g., 0.03 mole) obtained according to the procedure of Example 1(a) and 60 ml. of piperidine is heated in a sealed tube at 135° C. for a period of 48 hr. The reaction mixture is concentrated to dryness and the residual material taken up in a mixture of chloroform and 10% aqueous sodium carbonate. After separating the organic and aqueous fractions, the aqueous layer is washed with chloroform, the chloroform fractions combined and dried over magnesium sulfate. The dried chloroform extract is concentrated to a volume of approximately 100 ml., cooled and filtered to afford 0.52 g., (8% yield) of 2,6-diamino-4-(1-piperidinyl)pyridine 1-oxide, m.p. 249°-265° C. (dec.).

reactant | 4-chloro-2,6-bis-(ethoxycarbonylamino)-pyridine 1-oxide | 0.03 mole, 10.0 g | ClC1=CC(=[N+](C(=C1)NC(=O)OCC)[O-])NC(=O)OCC | C11H14ClN3O5
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2,6-diamino-4-(1-piperidinyl)pyridine 1-oxide | 8% yield | NC1=[N+](C(=CC(=C1)N1CCCCC1)N)[O-] | C10H16N4O
